US05569653
(A) 2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]acetamide
The mixture of 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine (6.77 g, 30.7 mmol), K2CO3 (5 g, 36.2 mmol) and 2-bromoacetamide (4.46 g, 32.3 mmol) in acetonitrile (250 ml) was heated to reflux for 4 hours. The insolubles were filtered and rinsed with dichloromethane (DCM). The solvents were removed. The residual solid was dissolved in DCM and upon concentration of this solution, 2.3 g of product crystallized out and was collected when the volume was reduced to about 50 ml. The rest of the product in DCM was purified by flash chromatography over a silica gel column (80 gm, SiO2 ; eluted with DCM and 1% CH3OH in DCM). The total product (4.2 g) thus purified was recrystallized from ethanol to yield 2.82 g of white crystals, m.p. 170°-172° C. dec.

reactant | 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine | 30.7 mmol, 6.77 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | K2CO3 | 36.2 mmol, 5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromoacetamide | 32.3 mmol, 4.46 g | BrCC(=O)N | C2H4BrNO
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]acetamide | 2.82 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)CC(=O)N)C=C1 | C14H16FN3O2
